US04985582
Sodium hydride (340 mg., 50% dispersion in paraffin oil) was added carefully to a stirred solution of thiolacetic acid (500 mg.) in dry dimethylformamide (100 ml.) at 20°. After 30 minutes 2,2-dimethyl-5-ethyl-5-iodomethyl-1,3-dioxane (2.0 g.) was added. The mixture was refluxed with stirring for 2 hours. The mixture was cooled and poured into water. The aqueous mixture was extracted with ether. The ethereal extracts were washed with water and dried over anhydrous magnesium sulphate. The solution was evaporated in vacuo. The residue was purified by column chromatography on silica, eluting with 1:4 ether:hexane. 5-Acetylthiomethyl-5-ethyl-2,2-dimethyl-1,3-dioxane was obtained as a pale yellow oil (1.5 g.)

reactant | Sodium hydride | 340 mg | [H-].[Na+]
reactant | thiolacetic acid | 500 mg | S1C(=CC=C1)CC(=O)O | C6H6O2S
reactant | 2,2-dimethyl-5-ethyl-5-iodomethyl-1,3-dioxane | 2.0 g | CC1(OCC(CO1)(CI)CC)C | C9H17IO2
reactant | water | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 5-Acetylthiomethyl-5-ethyl-2,2-dimethyl-1,3-dioxane | C(C)(=O)SCC1(COC(OC1)(C)C)CC | C11H20O3S
